US04838924
Resorcinol (11 g) and 17.2 g of crotonic acid were heated at 180° C. for 30 minutes together with 15 g of zinc chloride with stirring. The reaction mixture was extracted with ethyl acetate, and purified by column chromatography to give 7.3 g of 2,3-dihydro-7-hydroxy-2-methyl-4-oxobenzopyran. The OH group of the compound was benzylated in a customary manner, and then the product was reacted with CH3MgBr in tetrahydrofuran. The product was then hydrogenated in ethanol at room temperature for 13 hours in the presence of 5% palladium-carbon. The hydrogenated product was purified by column chromatography to give 4.2 g (yield 24%) of the desired product as a brown liquid.

reactant | Resorcinol | 11 g | C1(O)=CC(O)=CC=C1 | C6H6O2
reactant | crotonic acid | 17.2 g | C(\C=C\C)(=O)O | C4H6O2
catalyst | zinc chloride | 15 g | [Cl-].[Zn+2].[Cl-]
product | 2,3-dihydro-7-hydroxy-2-methyl-4-oxobenzopyran | 7.3 g | OC1=CC2=C(C(CC(O2)C)=O)C=C1 | C10H10O3
